US07196079B2
Step A. N-{(3R)-1-[4-(1,3-dioxo-1,3-dihydro-2H-Isoindol-2-yl)butyl]-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
A solution of N-t-butyloxycarbonyl-(3R)-3-amino-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine (40.0 mg, 0.114 nmol) in dimethylformamide (1.5 mL) was stirred with sodium hydride (6.83 mg, 0.17 mmol, 60% dispersion in oil) for 15 min, then N-(4-bromobutyl)-phthalimide (32.1 mg, 0.114 mmol) was added. The reaction was stirred overnight and worked up with methylene chloride and water. The crude product was dissolved in methylene chloride (4.5 mL) containing trifluoroacetic acid (1.5 mL) and stirred for 1 h. The solvents were removed in vacuo, and the crude product dissolved in tetrahydrofuran (1 mL) along with p-nitrochloroformate (14.5 mg, 0.072 mmol) and triethylamine (0.20 mL, 0.14 mmol). After stirring for 2 h, 3-(4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one hydrochloride (19.3 mg, 0.072 mmol) and triethylamine (0.020 mL, 0.14 nmol) was added and the reaction stirred overnight. The crude product was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution), to yield the title compound (19 mg). MS 710.3123 (M+1)

reactant | N-t-butyloxycarbonyl-(3R)-3-amino-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 0.114 nmol, 40.0 mg | C(C)(C)(C)OC(=O)N1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | C20H21N3O3
reactant | sodium hydride | 0.17 mmol, 6.83 mg | [H-].[Na+]
reactant | N-(4-bromobutyl)-phthalimide | 0.114 mmol, 32.1 mg | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 0.14 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one hydrochloride | 0.072 mmol, 19.3 mg | Cl.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 4.5 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | triethylamine | 0.14 nmol, 0.020 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-{(3R)-1-[4-(1,3-dioxo-1,3-dihydro-2H-Isoindol-2-yl)butyl]-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | 19 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCCN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O | C41H39N7O5
